US06936608B2
b) 7-[4-Fluoro-3-(pyridin-3-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
3-[2-Fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine (151 mg, 0.51 mmol) was coupled to 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.09 g, 0.34 mmol) as described in Example 37, step e, using 2 M Na2CO3 (0.51 ml) and tetrakis(triphenylphosphine)palladium(0) (0.019 g) in 1,2-dimethoxyethane (2 ml). The crude residue was purified by flash chromatography (silica gel, 2.5% MeOH/CH2Cl2) and triturated with Et2O to yield the title compound (54 mg, 45%): 1H NMR (400 MHz, CDCl3) δ 7.38-7.47 (2H, m), 7.94-7.97 (1H, m), 8.08-8.12 (1H, m), 8.24 (1H, dd, J 7.0, 2.3 Hz), 8.62 (1H, s), 8.69 (1H, dd, J 4.8, 1.6 Hz), 8.82 (1H, s), 8.88 (1H, s); MS (ES+) m/z 359, 360.

reactant | 3-[2-Fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine | 0.51 mmol, 151 mg | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC=CC1 | C17H19BFNO2
reactant | 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.34 mmol, 0.09 g | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | Na2CO3 | 2 M, 0.51 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.019 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[4-Fluoro-3-(pyridin-3-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 54 mg, 45% | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)C=2C=NC=CC2 | C17H9F4N5
